* RadioStorage shema-1804-6 single-supply BJT audio amplifier, upper Darlington variant
.options abstol=1n reltol=0.003 itl1=500 itl4=500
.temp 27

VCC vcc 0 12
VIN vin 0 DC 0 SIN(0 0.03125 500)
C3 vin b_in 10u
R3 b_in 0 10000
R2 out b_in 62000
Q1 drive b_in e_vt1 KT3102A
R4 e_vt1 0 51
R1A vcc boot 620
R1B boot b_top 3300
C4 boot out 470u
D1 b_top d_mid1 KD521A
D2 d_mid1 d_mid2 KD521A
D3 d_mid2 drive KD521A
Q2A vcc b_top b_upper KT3102A
Q2B vcc b_upper out KT817A
Q3 0 drive out KT816A
C2 out load 4700u
RLOAD load 0 8
C1 vcc 0 1000u

.model KD521A D(Is=2.5n Rs=1.8 N=1.85 Cjo=2p M=0.33 Bv=75 Ibv=5u Tt=4n)
.model KT3102A NPN(Is=2e-14 Bf=100 Br=6 Vaf=100 Var=20 Ikf=0.12 Ikr=0.02
+ Rc=1 Re=0.35 Rb=60 Cje=9p Cjc=4p Tf=0.4n Tr=35n)
.model KT817A NPN(Is=9e-14 Bf=50 Br=5 Vaf=70 Var=15 Ikf=3.0 Ikr=0.4
+ Rc=0.12 Re=0.06 Rb=2.5 Cje=140p Cjc=80p Tf=0.45u Tr=6u)
.model KT816A PNP(Is=1.1e-13 Bf=50 Br=5 Vaf=60 Var=15 Ikf=2.5 Ikr=0.35
+ Rc=0.14 Re=0.07 Rb=2.8 Cje=160p Cjc=90p Tf=0.55u Tr=7u)

.control
set noaskquit
tran 7.8125e-06 0.048 0.024 7.8125e-06
wrdata darlington_sweep_00500hz_020mw_b4.csv time v(load) v(vin)
quit
.endc
.end
